US09108969B2
Step F: Preparation of tert-Butyl 2-(7-(3-Cyano-5-(trifluoromethoxy)benzyloxy)-2,3-dihydro-1H-pyrrolo[1,2-a]indol-1-yl)acetate
To an ice-cooled solution of tert-butyl 2-(7-hydroxy-2,3-dihydro-1H-pyrrolo[1,2-a]indol-1-yl)acetate (131 mg, 0.456 mmol), 3-(hydroxymethyl)-5-(trifluoromethoxy)benzonitrile (114 mg, 0.524 mmol) and triphenylphosphine (179 mg, 0.684 mmol) in THF (3 mL) was added diisopropyl diazene-1,2-dicarboxylate (0.135 mL, 0.684 mmol) dropwise. After stirring at 0° C. for 15 min, the cooling bath was removed and the mixture was stirred at 23° C. for 3 h and then concentrated. The residue was purified by preparative TLC to provide the title compound as a yellow solid (50 mg). LCMS m/z=487.4 [M+H]+.

reactant | tert-butyl 2-(7-hydroxy-2,3-dihydro-1H-pyrrolo[1,2-a]indol-1-yl)acetate | 0.456 mmol, 131 mg | OC1=CC=2C=C3N(C2C=C1)CCC3CC(=O)OC(C)(C)C | C17H21NO3
reactant | 3-(hydroxymethyl)-5-(trifluoromethoxy)benzonitrile | 0.524 mmol, 114 mg | OCC=1C=C(C#N)C=C(C1)OC(F)(F)F | C9H6F3NO2
reactant | triphenylphosphine | 0.684 mmol, 179 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diisopropyl diazene-1,2-dicarboxylate | 0.684 mmol, 0.135 mL | N(=NC(=O)OC(C)C)C(=O)OC(C)C | C8H14N2O4
solvent | THF | 3 mL | C1CCOC1 | C4H8O
product | tert-Butyl 2-(7-(3-Cyano-5-(trifluoromethoxy)benzyloxy)-2,3-dihydro-1H-pyrrolo[1,2-a]indol-1-yl)acetate | 50 mg | C(#N)C=1C=C(COC2=CC=3C=C4N(C3C=C2)CCC4CC(=O)OC(C)(C)C)C=C(C1)OC(F)(F)F | C26H25F3N2O4
